US07465815B2
N-(4-Hydroxy-2,3,6-trimethylphenyl)formamide (30.0 g, 167 mmol) was dissolved in a mixed solvent of 4 N potassium hydroxide aqueous solution (100 mL) and methanol (300 mL), and dimethyl sulfate (42.0 g, 334 mmol) was added to the solution at room temperature and the mixture was heated under reflux for 14 hours. After ice-cooling, the precipitated crystals were collected by filtration to obtain the crude product of N-(4-methoxy-2,3,6-trimethylphenyl)formamide. To a suspension of the compound in methanol (200 mL) was added concentrated hydrochloric acid (50 mL) and the mixture was heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, and then was neutralized with a 8 N aqueous sodium hydroxide solution. The product was twice extracted with ethyl acetate, and the combined extract was washed with 10% sodium hydrosulfite aqueous solution and water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was crystallized from isopropyl ether to obtain the object compound 21.0 g (yield 76%). Melting point: 70-72° C.

reactant | N-(4-Hydroxy-2,3,6-trimethylphenyl)formamide | 167 mmol, 30.0 g | OC1=C(C(=C(C(=C1)C)NC=O)C)C | C10H13NO2
reactant | dimethyl sulfate | 334 mmol, 42.0 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | potassium hydroxide | 4 N, 100 mL | [OH-].[K+]
solvent | methanol | 300 mL | CO | CH4O
product | N-(4-methoxy-2,3,6-trimethylphenyl)formamide | COC1=C(C(=C(C(=C1)C)NC=O)C)C | C11H15NO2
